US08097708B2
Synthesis of N-[1-(1-methyl-1H-pyrrol-3-yl)ethyl]ethane-1,2-diamine
3-Acetyl-1-methylpyrrole (1.0 g) and ethylenediamine (1.46 g) were dissolved in toluene (10 ml), the solution was added with p-toluenesulfonic acid monohydrate (154 mg), and the mixture was refluxed for 2 hours by heating. The reaction mixture was added to a suspension of sodium borohydride (307 mg) in tetrahydrofuran, then the mixture was added with methanol, and the mixture was stirred at room temperature for 16 hours. The reaction mixture was made acidic with 1 N hydrochloric acid, and then the solvent was evaporated under reduced pressure. The mixture was added with distilled water and potassium carbonate, and thereby neutralized, and then the mixture was extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (chloroform:methanol:28% aqueous ammonia=10:1:0.1) to obtain the title compound (1.14 g).

reactant | 3-Acetyl-1-methylpyrrole | 1.0 g | C(C)(=O)C1=CN(C=C1)C | C7H9NO
reactant | ethylenediamine | 1.46 g | C(CN)N | C2H8N2
reactant | p-toluenesulfonic acid monohydrate | 154 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium borohydride | 307 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | N-[1-(1-methyl-1H-pyrrol-3-yl)ethyl]ethane-1,2-diamine | 1.14 g | CN1C=C(C=C1)C(C)NCCN | C9H17N3
